US07671066B2
Preparation of 4-nitro-benzoic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester (CHF 5513)
The compound was obtained starting from 4-nitro-benzoyl chloride and 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-ethanone, following the procedure of Example 7.

reactant | 4-nitro-benzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC)Cl | C15H13Cl2NO3
product | 4-nitro-benzoic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester | ClC=1C=NC=C(C1\C=C(\C1=CC(=C(C=C1)OC)OC)/OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)Cl | C22H16Cl2N2O6
